US06121201
5-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-3-formyl-1,3,4-thiadiazolidin-2-one.
Triphosgene (0.7 g) in toluene (20 ml) was dropwise added to a solution of N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylaminothiocarbonyl]-N1 -formyl-hydrazine (2.8 g) in acetone (70 ml) stirred at 0° C. Stirring was continued at room temperature for 1 hour and the solvents removed under reduced pressure. Column chromatography (methylene chloride:ethyl acetate, 3:1) yielded the product (3.3 g).

reactant | Triphosgene | 0.7 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N-[4-chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylaminothiocarbonyl]-N1 -formyl-hydrazine | 2.8 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)NC(=S)N(N)C=O)F | C14H9ClF4N4O2S
reactant | acetone | 70 ml | CC(=O)C | C3H6O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-Chloro-2-fluoro-5-(3-trifluoromethyl-2-pyridyloxy)phenylimino]-3-formyl-1,3,4-thiadiazolidin-2-one | 3.3 g | ClC1=CC(=C(C=C1OC1=NC=CC=C1C(F)(F)F)N=C1NN(C(S1)=O)C=O)F | C15H7ClF4N4O3S
